US04021542
1-(2,3,5-tri-O-benzyl-D-ribofuranosyl)-2-(p-nitro-benzylidene) hydrazine
2.4 g (5.55 mmoles) of 1-hydrazino-2,3,5-tri-O-benzyl-D-ribose are dissolved in 10 ml of absolute methanol. 0.84 g (5.55 mmoles) of p-nitrobenzaldehyde (dissolved in 8 ml of absolute methanol) are added to the solution. Stirring is carried out at room temperature and after approximately 5 minutes a yellow flaky precipitate appears. After 24 hours the precipitate is drawn off by suction and dried. Yield: 2.4 g (76 %). Melting point: 93° C. (from methanol).

reactant | 1-hydrazino-2,3,5-tri-O-benzyl-D-ribose | 5.55 mmoles, 2.4 g | N(N)C(=O)[C@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O)COCC1=CC=CC=C1 | C26H30N2O5
reactant | p-nitrobenzaldehyde | 5.55 mmoles, 8 ml, 0.84 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
solvent | methanol | 10 ml | CO | CH4O
product | 1-(2,3,5-tri-O-benzyl-D-ribofuranosyl)-2-(p-nitro-benzylidene) hydrazine | C(C1=CC=CC=C1)O[C@H]1C(O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)NN=CC1=CC=C(C=C1)[N+](=O)[O-] | C33H33N3O6
